US05059597
a) trans-1-Benzyl-4-hydroxy-3-(2-hydroxyethyl-methylamino)-pyrrolidine
17.5 g (0.1 mol) of 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane are reacted with 17 g (0.1 mol) of methylaminoethanol in 200 ml of water analogously to Example D a).

reactant | 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane | 0.1 mol, 17.5 g | C(C1=CC=CC=C1)N1CC2OC2C1 | C11H13NO
reactant | methylaminoethanol | 0.1 mol, 17 g | CNC(C)O | C3H9NO
reactant | water | 200 ml | O | H2O
product | trans-1-Benzyl-4-hydroxy-3-(2-hydroxyethyl-methylamino)-pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)N(C)CCO | C14H22N2O2
